US07022855B2
2,3-Dimethyl-4-cyclopropanecarbonyloxy-5,6-difluoroquinoline (1.5 g) prepared as described in Example 4 was dissolved in 15 ml of methanol. A 10% aqueous sodium hydroxide solution (15 ml) was added to the solution, and the mixture was stirred at 50° C. for 1.5 hr. The reaction mixture was allowed to stand for cooling, was then poured into 50 ml of water, and was neutralized with 1 N hydrochloric acid, and the precipitate was then collected by filtration to give 1.1 g of 2,3-dimethyl-4-hydroxy-5,6-difluoroquinoline. In 5 ml of dimethyl formamide was suspended 11.5 mg of 60% sodium hydride. Separately, 50 mg of 2,3-dimethyl-4-hydroxy-5,6-difluoroquinoline (starting material 1) prepared above was suspended in 5 ml of dimethyl formamide, and this suspension was added dropwise to the above suspension under ice cooling. After stirring for one hr, 20 mg of acetyl chloride (starting material 2) was added thereto, and the mixture was stirred at room temperature for 15 hr. The reaction solution was poured into water, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with a saturated aqueous sodium hydrogencarbonate solution and saturated brine and was then dried over anhydrous sodium sulfate. The solvent was then removed by evaporation under the reduced pressure. The crude product thus obtained was purified on Wako Gel C-200 (100 ml; elution solvent=n-hexane-ethyl acetate (10:1)) to give 54.2 mg of 2,3-dimethyl-4-acetoxy-5,6-difluoroquinoline (compound 44). 1H-NMR data are shown in Table 3.

reactant | 2,3-Dimethyl-4-cyclopropanecarbonyloxy-5,6-difluoroquinoline | 1.5 g | CC1=NC2=CC=C(C(=C2C(=C1C)OC(=O)C1CC1)F)F | C15H13F2NO2
reactant | sodium hydroxide | 15 ml | [OH-].[Na+]
reactant | water | 50 ml | O | H2O
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | methanol | 15 ml | CO | CH4O
product | 2,3-dimethyl-4-hydroxy-5,6-difluoroquinoline | 1.1 g | CC1=NC2=CC=C(C(=C2C(=C1C)O)F)F | C11H9F2NO
